US04309566
This compound was prepared in the manner of Example I, using 12.2 grams (0.064 mole) of 2,6-dichlorobenzoic acid, 4.2 grams (0.064 mole) of potassium hydroxide, 8.7 grams (0.064 mole) of chloroacetic acid 2,2-dimethylhydrazide, and 1.7 grams of 1,4,7,10,13,16-hexaoxacyclooctadecane in 180 ml of dry toluene. The crude product was recrystallized twice from ethyl acetate using decolorizing carbon to give 18.6 grams of 2,6-dichlorobenzoyloxyacetic acid 2,2-dimethylhydrazide; mp 160°-162°. The ir and the nmr spectra were consistent with the proposed structure.

reactant | 2,6-dichlorobenzoic acid | 0.064 mole, 12.2 grams | ClC1=C(C(=O)O)C(=CC=C1)Cl | C7H4Cl2O2
reactant | potassium hydroxide | 0.064 mole, 4.2 grams | [OH-].[K+]
reactant | chloroacetic acid 2,2-dimethylhydrazide | 0.064 mole, 8.7 grams | CN(NC(CCl)=O)C | C4H9ClN2O
reactant | 1,4,7,10,13,16-hexaoxacyclooctadecane | 1.7 grams | O1CCOCCOCCOCCOCCOCC1 | C12H24O6
solvent | toluene | 180 ml | C1(=CC=CC=C1)C | C7H8
product | 2,6-dichlorobenzoyloxyacetic acid 2,2-dimethylhydrazide | 18.6 grams | CN(NC(C(Cl)OC(C1=CC=CC=C1Cl)=O)=O)C | C11H12Cl2N2O3
